US06046201
tert-Butyl N-(12-iodododecyl)carbamate
To a suspension of 0.5 g of tert-butyl N-(12-hydroxydodecyl)carbamate in 15 ml of toluene were added 0.28 g of imidazole, 1.09 g of triphenylphosphine and 0.84 g of iodine and the mixture was stirred for 0.5 hour. Then, 5 ml of tetrahydrofuran was further added and the mixture was stirred for 2 hours. To the reaction solution was added ethyl acetate and the mixture was washed successively with a 10% aqueous solution of sodium thiosulfate and water and dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue thus obtained was chromatographed over a silica gel column to afford 0.42 g of the title compound.

reactant | tert-butyl N-(12-hydroxydodecyl)carbamate | 0.5 g | OCCCCCCCCCCCCNC(OC(C)(C)C)=O | C17H35NO3
reactant | imidazole | 0.28 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 1.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.84 g | II | I2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl N-(12-iodododecyl)carbamate | 0.42 g | ICCCCCCCCCCCCNC(OC(C)(C)C)=O | C17H34INO2
